US06316482B1
To a solution of N-(2-chloroethyl)-2-nitrobenzamide (3.63 g) in acetonitrile (100 ml) was slowly added 40% potassium fluoride on alumina (10 g). This slurry was stirred at ambient temperature for 24 hours. The potassium fluoride on alumina was filtered through a bed of celite, washed with ethyl acetate. The solvent was evaporated to give 2-(2,5-oxazolinyl)nitrobenzene (3.0 g).

reactant | N-(2-chloroethyl)-2-nitrobenzamide | 3.63 g | ClCCNC(C1=C(C=CC=C1)[N+](=O)[O-])=O | C9H9ClN2O3
reactant | potassium fluoride on alumina | 10 g | [F-].[K+]
solvent | acetonitrile | 100 ml | C(C)#N | C2H3N
product | 2-(2,5-oxazolinyl)nitrobenzene | 3.0 g | C=1(OCCN1)C1=C(C=CC=C1)[N+](=O)[O-] | C9H8N2O3
